US04977155
A mixture of 0,5 g (2,24 mmol) 5,6-diamino-7-chloro-2,3-dihydroxyquinoxaline in 20 ml water was added 0,5 ml (3,36 mmol) 40% aqueous glyoxal and 0,35 g (3,36 mmol) sodium carbonate. The reaction mixture was stirred at 50° C. for 3 h. After cooling to 25° C., the precipitate was filtered off. The crude product was stirred with water and added 1N hydrochloric acid to pH 2-3 to give 0,56 g (100%) 6-chloro-2,3-dihydroxypyrazino(2,3-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6): 9.0 (2H,s), 7.73 (1H,s).

reactant | 5,6-diamino-7-chloro-2,3-dihydroxyquinoxaline | 2,24 mmol, 0,5 g | NC1=C2N=C(C(=NC2=CC(=C1N)Cl)O)O | C8H7ClN4O2
reactant | glyoxal | 3,36 mmol, 0,5 ml | C(=O)C=O | C2H2O2
reactant | sodium carbonate | 3,36 mmol, 0,35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
product | 6-chloro-2,3-dihydroxypyrazino(2,3-f)quinoxaline | 0,56 g, 100% | ClC=1C=C2C(=C3N=CC=NC13)N=C(C(=N2)O)O | C10H5ClN4O2
